US08754089B2
A mixture of 2-(chloromethyl)-4H-pyrido[1,2-a]pyrimidin-4-one (3.564 g, 1.0 equiv.), N-bromosuccinamide (1.0 equiv.) and acetic acid (48.2 mL) was stirred at rt for 4.5 h, at this point LCMS showed reaction was complete. The mixture was poured into water (200 mL) and the resulting precipitate was collected by filtration, washed with water (200 mL) and dried to give an orange solid. The solid was dissolved in DCM (100 mL), dried over Na2SO4, filtered and cond under reduced pressure to give desired 3-bromo-2-(chloromethyl)-4H-pyrido[1,2-a]pyrimidin-4-one as an orange solid which was carried forward without any further purification: 1HNMR (400 MHz, DMSO-d6): δ 8.94-8.97 (dd,1H), 8.03-8.08 (m,1H), 7.76-7.80 (dd, 1H), 7.43-7.48 (m,1H), 4.7 (s,2H).

reactant | 2-(chloromethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 3.564 g, 1.0 equiv. | ClCC=1N=C2N(C(C1)=O)C=CC=C2 | C9H7ClN2O
reactant | N-bromosuccinamide | 1.0 equiv. | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | acetic acid | 48.2 mL | C(C)(=O)O | C2H4O2
reactant | water | 200 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-2-(chloromethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=CC=C2)CCl | C9H6BrClN2O
